US05252732
To a stirred mixture of NaOH (204 mg., 5.1 mmol., 1 eq.) in DMSO (10 mL.) was added 5-bromoindole (1.0 g., 5.1 mmol., 1 eq.). The solution was stirred for 20 hours upon complete dissolution of the NaOH (approximately 1 h.). To this solution was added benzyl bromide (0.606 mL., 5.1 mmol., 1 eq.) via syringe. After 7 h. the mixture was diluted with water and extracted 4× with diethyl ether. The organic extracts were combined, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The product was purified by crystallization (ether/hexanes) affording 888 mg of 1-benzyl-5-bromoindole.

reactant | NaOH | 5.1 mmol, 204 mg, 1 eq. | [OH-].[Na+]
reactant | 5-bromoindole | 5.1 mmol, 1.0 g, 1 eq. | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | benzyl bromide | 5.1 mmol, 0.606 mL, 1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-benzyl-5-bromoindole | 888 mg | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
